US07285558B2
Preparation of N-(tert-butyl)-2-formyl-1-methyl-1H-imidazole-4-sulfonamide
Step A) Preparation of N-(tert-butyl)-1-methyl-1H-imidazole-4-sulfonamide: A solution of 5.2 gm (29 mmol) 1-methyl-1H-imidazole-4-sulfonyl chloride in 30 mL THF was cooled in ice water while 7 mL tert-butylamine was added dropwise. The solution was warmed to room temperature and stirred overnight. Solids were filtered and rinsed with additional THF. The filtrate was concentrated to give a white solid that was recrystallized from water and dried in vacuo to give 4.8 gm of the subtitle compound, 1H NMR (d6-DMSO) δ 7.75 (s, 1H), 7.65 (s, 1H), 7.2 (s, 1H), 3.7 (s, 3H), 1.1 (s, 9H).

reactant | N-(tert-butyl)-1-methyl-1H-imidazole-4-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1N=CN(C1)C | C8H15N3O2S
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | 29 mmol, 5.2 gm | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | tert-butylamine | 7 mL | C(C)(C)(C)N | C4H11N
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(tert-butyl)-2-formyl-1-methyl-1H-imidazole-4-sulfonamide | 4.8 gm | C(C)(C)(C)NS(=O)(=O)C=1N=C(N(C1)C)C=O | C9H15N3O3S
